US07256305B2
In a 50 mL-volumetric autoclave were added deaerated ethanol (10 mL), and thereto were added cobalt acetate tetrahydrate (250 mg, 1 mmol) and 10% Pd/C (10 mg). After covering the autoclave with a cap, carbon monoxide (1 MPa) and hydrogen gas (1 MPa) were introduced therein, successively and the mixture was reacted at 80° C. for 3 hours. After 3 hours the mixture was cooled to room temperature, and the mixed gas was emitted to give a solution containing dicobaltoctacarbonyl complex. Thereto were added 4-aminopyridine (47 mg, 0.5 mmol) and (S)-epichlorohydrin (1.8 g, 20 mmol, >99% ee). After covering the autoclave with a cap, carbon monoxide (1 MPa) was introduced therein and the mixture was reacted at 35° C. for 28 hours. After temperature of the mixture was made room temperature, the solvent was removed in vacuo. The residue was subjected to Kugelrohr distillation to give (S)-4-chloro-3- hydroxybutanoic acid ethyl ester (3.1 g, 92%, >99% ee) as a colorless oil.

reactant | carbon monoxide | [C]=O | CO
reactant | hydrogen | [H][H] | H2
reactant | 4-aminopyridine | 0.5 mmol, 47 mg | NC1=CC=NC=C1 | C5H6N2
reactant | (S)-epichlorohydrin | 20 mmol, 1.8 g | C(Cl)[C@@H]1CO1 | C3H5ClO
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | cobalt acetate tetrahydrate | 1 mmol, 250 mg | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | (S)-4-chloro-3- hydroxybutanoic acid ethyl ester | 3.1 g, 92% | C(C)OC(C[C@@H](CCl)O)=O | C6H11ClO3
